US05698554
An aqueous solution (25 ml) containing 3.20 g of sodium metaperiodate was added dropwise to an acetic acid suspension (100 ml) containing 5.36 g of 6-[4-(3-(2-methylthioethyl)sulfonylaminopropyl)phenyl]pyridazin-3(2H)-one, and the mixture was stirred at room temperature for 1.5 hours. The reaction mixture was poured into ice water, and precipitated crystal was collected by filtration and dried to obtain 5.00 g of 6-[4-(3-(2-methylsulfinylethyl)sulfonylaminopropyl)phenyl]pyridazin-3(2H)-one.

reactant | sodium metaperiodate | 3.20 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 6-[4-(3-(2-methylthioethyl)sulfonylaminopropyl)phenyl]pyridazin-3(2H)-one | 5.36 g | CSCCS(=O)(=O)NCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | C16H21N3O3S2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 6-[4-(3-(2-methylsulfinylethyl)sulfonylaminopropyl)phenyl]pyridazin-3(2H)-one | 5.00 g | CS(=O)CCS(=O)(=O)NCCCC1=CC=C(C=C1)C=1C=CC(NN1)=O | C16H21N3O4S2
